US20010041799A1
A 250 mL pressure bottle was charged with 2-ethyl-6-methyliodobenzene (30.07 mmol, 7.4 g), Pd(OAc)2 (1.43 mmol, 334 mg) and dppp (1.43 mmol, 620 mg). The flask was closed with a septum and evacuated three times with argon. Acetonitrile (96 mL), triethylamine (189 mmol, 19.0 g, 26.25 mL) and water (19.1 mL) were added in succession by the aid of syringe and the rubber septum was replaced with a teflon lined cap connected to a carbon monoxide source. The flask was now pressurized with carbon monoxide (40 psi) and the excess pressure was released. This process was repeated three times and finally the mixture was stirred for 5 min under 40 psi carbon monoxide pressure. The flask was then disconnected from the carbon monoxide cylinder and immersed in a preheated oil bath (83-85 ° C.). The reaction mixture turned black within 1 h and was stirred for another 14 h at this temperature, then was cooled to room temperature and the pressure was released. The resulting mixture was diluted with diethyl ether (200 mL) and 1 ON NaOH (20 mL). The formed sodium was extracted into water (2×100 mL). The combined water extracts were acidified with 1.ON HCl and the mixture was extracted with dichloromethane (3×100 mL). The combined dichloromethane extracts were washed with brine, dried (MgSO4), filtered and the volatiles were removed under vacuum to provide 3.58 g (72.5%) of 2-ethyl-6-methylbenzoic acid as a viscous brown oil which slowly solidified overnight. HR MS: Obs. mass, 164.0833. Calcd. mass, 164.0837 (M+).

reactant | 2-ethyl-6-methyliodobenzene | 30.07 mmol, 7.4 g | C(C)C1=C(C(=CC=C1)C)I | C9H11I
reactant | Acetonitrile | 96 mL | C(C)#N | C2H3N
reactant | triethylamine | 189 mmol, 26.25 mL, 19.0 g | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | Pd(OAc)2 | 1.43 mmol, 334 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppp | 1.43 mmol, 620 mg | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
solvent | water | 19.1 mL | O | H2O
product | 2-ethyl-6-methylbenzoic acid | 3.58 g, 72.5% | C(C)C1=C(C(=O)O)C(=CC=C1)C | C10H12O2
